US07468371B2
4-methyl-2-thiophenecarboxylic acid
To an aqueous solution of sodium hypochlorite (available chlorine 5%) (92.6 mL, 143.0 mmol) at about 0° C. was added sodium hydroxide (1.14 g, 28.6 mmol) and the mixture was stirred at about 0° C. until all of the sodium hydroxide had dissolved. To this solution was added 2-acetyl-4-methylthiophene (2.0 g, 14.3 mmol) at about 0° C. After the addition was complete, the mixture was heated to about 70° C. for about 3 hours, then the solution was cooled and was carefully quenched by addition of a solution of sodium bisulfite (23 g) in water (150 mL). After stirring for about 20 minutes, the solution was acidified by addition of concentrated hydrochloric acid and the precipitate was collected by filtration and dried under high vacuum to provide the desired product. MS (DCI-NH3): m/z 160 (M+NH4)+.

reactant | sodium hypochlorite | 143.0 mmol, 92.6 mL | Cl[O-].[Na+]
reactant | sodium hydroxide | 28.6 mmol, 1.14 g | [OH-].[Na+]
reactant | 2-acetyl-4-methylthiophene | 14.3 mmol, 2.0 g | C(C)(=O)C=1SC=C(C1)C | C7H8OS
product | 4-methyl-2-thiophenecarboxylic acid | CC=1C=C(SC1)C(=O)O | C6H6O2S
